US05482936
Hydrochloric acid (80 mL of 6N) was added to a suspension of N,N-bis(phenylmethyl)-2-(4-chloro-3-methylbutyl)-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine (0.64 g, 1.2 mmole) in methanol (40 mL). The reaction mixture was heated at reflux for 2 hours (All of the methanol was driven off during this period.), diluted with methylene chloride and then made basic with 10% sodium hydroxide. The methylene chloride layer was separated, dried over magnesium sulfate and then concentrated to provide about 0.5 g of N,N-bis(phenylmethyl)-2-(4-chloro-3-methylbutyl)-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | Hydrochloric acid | 6N, 80 mL | Cl | ClH
reactant | N,N-bis(phenylmethyl)-2-(4-chloro-3-methylbutyl)-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.2 mmole, 0.64 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2COCC)CCC(CCl)C)CC2=CC=CC=C2 | C32H35ClN4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-bis(phenylmethyl)-2-(4-chloro-3-methylbutyl)-1H-imidazo[4,5-c]quinolin-4-amine | about 0.5 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2)CCC(CCl)C)CC2=CC=CC=C2 | C29H29ClN4
